US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-hydroxypropan-2-yl)oxazole-4-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 2-(2-hydroxypropan-2-yl)oxazole-4-carboxylic acid (184 mg, 1.076 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile (250 mg, 0.897 mmol). The product was purified by flash chromatography. Yield 79%. 1H-NMR (400 MHz; DMSO-d6): δ 1.13 (d, 3H), 1.52 (s, 6H), 4.31 (dd, 1H), 4.41 (dd, 1H), 4.44-4.52 (m, 1H), 5.64 (s, 1H), 7.02 (d, 1H), 7.84-7.88 (m, 2H), 7.97-7.98 (m, 1H), 8.10 (d, 1H), 8.48 (s, 1H).

reactant | 2-(2-hydroxypropan-2-yl)oxazole-4-carboxylic acid | 1.076 mmol, 184 mg | OC(C)(C)C=1OC=C(N1)C(=O)O | C7H9NO4
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile | 0.897 mmol, 250 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)Cl)C | C13H12ClFN4
product | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-hydroxypropan-2-yl)oxazole-4-carboxamide | Yield 79% | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)C(C)(C)O | C20H19ClFN5O3
